US04643849
In 5 ml of methanol was dissolved 0.14 g of 5-(dimethylamino)methyl-2-mercaptomethyl-4-methylthiophene, and 0.2 ml of a 3.57N sodium methoxide-methanol solution was added at room temperature in a nitrogen atomsphere, after which 0.2 g of N-(2-chloroethyl)-N'-(β-hydroxyphenethyl)-2-nitro-1,1-ethenediamine was added at one time, after which the reaction mixture was allowed to stand at room temperature for 24 hours, and the deposited substance was removed by filtration, after which the solvent was removed by distillation under reduced pressure. Chloroform was added to the resulting residue, and the insolubles were removed by filtration, after which the solvent was removed by distillation under reduced pressure, and the residue thus obtained was purified by a column chromatography (basic alumina, eluent; chloroform:methanol=10:1 by volume) to obtain 0.033 g (yield 11%) of N-{2-[[5-(dimethylamino)methyl-4-methyl-2-thienyl]methylthio]ethyl}-N'-(β-hydroxyphenethyl)-2-nitro-1,1-ethenediamine having a melting point of 114°-115° C.

reactant | 5-(dimethylamino)methyl-2-mercaptomethyl-4-methylthiophene | 0.14 g | CN(C)CC1=C(C=C(S1)CS)C | C9H15NS2
reactant | sodium methoxide methanol | 3.57N | C[O-].[Na+].CO
reactant | N-(2-chloroethyl)-N'-(β-hydroxyphenethyl)-2-nitro-1,1-ethenediamine | 0.2 g | ClCCNC(=C[N+](=O)[O-])NCC(C1=CC=CC=C1)O | C12H16ClN3O3
solvent | methanol | 5 ml | CO | CH4O
product | N-{2-[[5-(dimethylamino)methyl-4-methyl-2-thienyl]methylthio]ethyl}-N'-(β-hydroxyphenethyl)-2-nitro-1,1-ethenediamine | 0.033 g, yield 11% | CN(C)CC1=C(C=C(S1)CSCCNC(=C[N+](=O)[O-])NCC(C1=CC=CC=C1)O)C | C21H30N4O3S2
